US07071337B2
2-(5-Methoxy-benzoimidazol-1-yl)-quinolin-8-ol
N1-[8-(tert-Butyl-dimethyl-silanyloxy)-quinolin-2-yl]-4-methoxy-benzene-1,2-diamine D (18.3 g, 46.1 mmol) was dissolved in 40 mL of 2-methoxyethanol under an atmosphere of dry N2. To this solution was added formamidine acetate (5.28 g, 50.7 mmol) and the reaction mixture was heated to 125° C. and reacted at this temperature for 1.5 hours. The solvent was removed under vacuum and the resulting solid was triturated with ethyl ether (Et2O), dried under vacuum to give 13.3 g of E as a pink solid.

reactant | N1-[8-(tert-Butyl-dimethyl-silanyloxy)-quinolin-2-yl]-4-methoxy-benzene-1,2-diamine | C(C)(C)(C)[Si](OC=1C=CC=C2C=CC(=NC12)NC=1C(=CC(=CC1)OC)N)(C)C | C22H29N3O2Si
reactant | formamidine acetate | 50.7 mmol, 5.28 g | C(C)(=O)O.C(=N)N
solvent | 2-methoxyethanol | 40 mL | COCCO | C3H8O2
product | 2-(5-Methoxy-benzoimidazol-1-yl)-quinolin-8-ol | COC1=CC2=C(N(C=N2)C2=NC3=C(C=CC=C3C=C2)O)C=C1 | C17H13N3O2
